US06410534B1
Step E: 7-(Triisopropylsilyloxy)naphthalene-1-carboxylic acid ({[3-(4-cyano-3-fluoro-benzyl)-3H-imidazol-4-ylmethyl]carbamoyl}methyl)amide
To 5-(aminomethyl)-1-(4-cyano-3-fluorobenzyl)imidazole hydrochloride, as described above in Step B, (54 mg, 0.18 mmol) in dry THF (2 mL) under argon were added PYBOP (219 g, 0.42 mmol), N-[7-(triisopropylsilyloxy)naphthalene-1-carbonyl]glycine lithium salt, as described above in Step D, (171 mg, 0.42 mmol), and N,N-diisopropylethylamine (0.124 mL, 0.71 mmol). The reaction mixture was stirred for 3 hrs, then partitioned between CH2Cl2 (30 mL) and saturated aqueous NaHCO3 (10 mL). The aqueous layer was extracted further with CH2Cl2 (2×15 mL). The combined organic extracts were dried over Na2SO4, filtered, and concentrated in vacuo. The residue was purified by flash column chromatography on silica, eluting with a gradient of CH2Cl2-1% MeOH −0.1% NH4OH to CH2Cl2-5% MeOH −0.5% NH4OH, to yield the desired product as a pale foam.

reactant | 5-(aminomethyl)-1-(4-cyano-3-fluorobenzyl)imidazole hydrochloride | Cl.NCC1=CN=CN1CC1=CC(=C(C=C1)C#N)F
reactant | PYBOP | 0.42 mmol, 219 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | N-[7-(triisopropylsilyloxy)naphthalene-1-carbonyl]glycine lithium salt | [Li+].C(C)(C)[Si](OC1=CC=C2C=CC=C(C2=C1)C(=O)NCC(=O)[O-])(C(C)C)C(C)C
reactant | N,N-diisopropylethylamine | 0.71 mmol, 0.124 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 7-(Triisopropylsilyloxy)naphthalene-1-carboxylic acid ({[3-(4-cyano-3-fluoro-benzyl)-3H-imidazol-4-ylmethyl]carbamoyl}methyl)amide | C(#N)C1=C(C=C(CN2C=NC=C2CNC(=O)CNC(=O)C2=CC=CC3=CC=C(C=C23)O[Si](C(C)C)(C(C)C)C(C)C)C=C1)F | C34H40FN5O3Si
